US09085555B2
B. 5-Allyloxy-1H-indole-3-carbaldehyde
To a solution of oxalyl chloride (1.22 mL, 14.1 mmol) in dry CH2Cl2 (20 mL) was added at 0° C. under nitrogen a solution of dry DMF (1.3 mL) in dry CH2Cl2 (20 mL). The mixture was stirred at 0° C. for 30 min and a solution of 5-allyloxy-1H-indole (1.25 g, 7.22 mmol) in CH2Cl2 (10 mL) was added. The resulting solution was allowed to reach RT and stirred for 4 h. The solvent was concentrated and the residue dissolved in THF (35 mL) and 20% aqueous ammonium acetate (48 mL) and heated at reflux for 30 min, cooled, treated with an aqueous saturated solution of NaHCO3, and extracted twice with EtOAc. The combined organic layers were dried over Na2SO4, filtered and concentrated. The crude solid was taken up in CH2Cl2 and filtered-off to give the desired compound. TLC, Rf (c-hexane/EtOAc 1:2)=0.56; MS (LC/MS): 202.0 [M+H]+, 224.1 [M+Na]+, 200.1 [M−H]−, 159.1 [M−H-allyl]−; tR (HPLC conditions a): 2.89 min.

reactant | oxalyl chloride | 14.1 mmol, 1.22 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 1.3 mL | CN(C)C=O | C3H7NO
reactant | 5-allyloxy-1H-indole | 7.22 mmol, 1.25 g | C(C=C)OC=1C=C2C=CNC2=CC1 | C11H11NO
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-Allyloxy-1H-indole-3-carbaldehyde | C(C=C)OC=1C=C2C(=CNC2=CC1)C=O | C12H11NO2
